US07576089B2
tert-Butyl (2R,4R)-4-{[tert-Butyl(dimethyl)silyl]oxy}-2-methylpyrrolidine-1-carboxylate
tert-Butyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-({[(4-methylphenyl)-sulfonyl]-oxy}methyl)pyrrolidine-1-carboxylate (6.32 g, 13.01 mmol) was dissolved in THF (50 mL) under nitrogen and cooled to 0° C. Lithium triethylborohydride solution (Super Hydride, 14.3 mL, 1.0 M in THF) was added dropwise and the mixture was then slowly warmed to room temperature. After 2 hours, TLC revealed half conversion. More lithium triethylborohydride solution (12.0 mL) was added and the solution stirred at room temperature overnight. Diluted with NaHCO3/H2O and extracted twice with ethyl acetate. Washed organic layer with NH4Cl/H2O and brine. Dried organic extracts over MgSO4, filtered and concentrated to give a colorless oil. Chromatographed on silica gel eluting with 10% ethyl acetate/hexane. Pure fractions were combined to give the desired product as a colorless oil, 3.74 g (91%). LC/MS (M+Na)+ m/z=338.2. 1H NMR (CDCl3) δ 4.34 (m, 1H), 3.95 (m, 1H), 3.35 (m, 2H), 1.98 (m, 1H), 1.65 (m, 1H), 1.47 (s, 9H), 1.20 (bs, 3H), 0.87 (s, 9H), 0.06 (s, 6H).

reactant | tert-Butyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-({[(4-methylphenyl)-sulfonyl]-oxy}methyl)pyrrolidine-1-carboxylate | 13.01 mmol, 6.32 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C=C1)C | C23H39NO6SSi
reactant | Lithium triethylborohydride | 1.0 M, 14.3 mL | C(C)[BH-](CC)CC.[Li+]
reactant | lithium triethylborohydride | 12.0 mL | C(C)[BH-](CC)CC.[Li+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 H2O | C(=O)(O)[O-].[Na+].O
product | tert-Butyl (2R,4R)-4-{[tert-Butyl(dimethyl)silyl]oxy}-2-methylpyrrolidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C | C16H33NO3Si
